US07241785B2
A mixture of ethyl 3-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylthio]-1H-1,2,4-triazol-3-yl]propionate (550 mg), 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (5 ml) and ethanol (5 ml) was stirred at room temperature for 3 hrs. The reaction mixture was poured into water, neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated to give 3-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylthio]-1H-1,2,4-triazol-3-yl]propionic acid as crystals. Recrystallization from methanol-ethyl acetate gave colorless prism crystals (410 mg, yield 79%). melting point: 170–171° C.

reactant | ethyl 3-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylthio]-1H-1,2,4-triazol-3-yl]propionate | 550 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CSC2=NC(=NN2)CCC(=O)OCC)C=C1 | C25H26N4O4S
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylthio]-1H-1,2,4-triazol-3-yl]propionic acid | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CSC2=NC(=NN2)CCC(=O)O)C=C1 | C23H22N4O4S
